US05965730
To acetic acid (80 ml) are added 4-(1-chloro-6,7-dimethoxy-3-methoxycarbonylisoquinolin-4-yl)pyridine (6.11 g), sodium acetate (1.4 g) and 10% palladium-carbon (2.5 g), and the mixture is subjected to hydrogenation at 50° C. for 19 hours under pressure (2.7 atm). The palladium-carbon is removed by filtration, and the filtrate is concentrated to give 4-(6,7-dimethoxy-3-methoxycarbonylisoquinolin-4-yl)pyridine (4.84 g).

reactant | 4-(1-chloro-6,7-dimethoxy-3-methoxycarbonylisoquinolin-4-yl)pyridine | 6.11 g | ClC1=NC(=C(C2=CC(=C(C=C12)OC)OC)C1=CC=NC=C1)C(=O)OC | C18H15ClN2O4
reactant | sodium acetate | 1.4 g | C(C)(=O)[O-].[Na+]
catalyst | palladium-carbon | 2.5 g | [C].[Pd]
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | 4-(6,7-dimethoxy-3-methoxycarbonylisoquinolin-4-yl)pyridine | 4.84 g | COC=1C=C2C(=C(N=CC2=CC1OC)C(=O)OC)C1=CC=NC=C1 | C18H16N2O4
